US09226922B2
6-Chloro-3-(methylsulfonyl)-1H-pyrazolo[4,3-c]pyridine (45 mg, 0.194 mmol), (R)-1-(1-phenylethyl)urea (38.3 mg, 0.233 mmol), and BrettPhos pre-catalyst (21.72 mg, 0.027 mmol) were taken up in THF (650 μL) in a 1.5 mL microwave vial. Potassium t-butoxide (1 M in THF, 583 μL, 0.583 mmol) was added and the vial was evacuated and back-filled with N2 (×3). The reaction mixture was stirred at 60° C. for 18 h. The crude reaction mixture was filtered through a Si-Thiol cartridge (6 mL, 500 mg) to remove excess Pd. The filtrate was concentrated in vacuo, dissolved in DMSO/MeOH (with a few drops of TFA), and purified by mass triggered, reverse phase prep-HPLC. The fractions containing pure product were concentrated in vacuo to afford (R)-1-(3-(methylsulfonyl)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea. MS ESI calc'd. For C16H17N5O3S [M+1]+ 360. found 360. 1H NMR (500 MHz, DMSO-d6) δ 9.21 (s, 1H), 8.92 (s, 1H), 7.87 (s, 1H), 7.50 (br s, 5H), 4.92-4.80 (m, 1H), 3.38 (s, 3H) 1.40 (d, J=7.0 Hz, 3H).

reactant | 6-Chloro-3-(methylsulfonyl)-1H-pyrazolo[4,3-c]pyridine | 0.194 mmol, 45 mg | ClC1=CC2=C(C=N1)C(=NN2)S(=O)(=O)C | C7H6ClN3O2S
reactant | (R)-1-(1-phenylethyl)urea | 0.233 mmol, 38.3 mg | C1(=CC=CC=C1)[C@@H](C)NC(=O)N | C9H12N2O
reactant | Potassium t-butoxide | 0.583 mmol, 1 M, 583 μL | CC(C)([O-])C.[K+]
catalyst | BrettPhos | 0.027 mmol, 21.72 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
solvent | THF | 650 μL | C1CCOC1 | C4H8O
product | (R)-1-(3-(methylsulfonyl)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | CS(=O)(=O)C1=NNC2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2 | C16H17N5O3S
